US07582631B2
To a solution of anthranilamide (2.36 g, 17.33 mmol) in 100 mL of THF at RT was added 2-chloroisonicotinoyl chloride (3.35 g, 19.04 mmol). A precipitate appeared and the reaction was heated to reflux overnight. The reaction was cooled to RT and concentrated. The precipitate was filtered and washed with H2O, CH2Cl2, and Et2O to give N-(2-carbamoyl-phenyl)-2-chloro-isonicotinamide as a light brown solid.

reactant | anthranilamide | 17.33 mmol, 2.36 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | 2-chloroisonicotinoyl chloride | 19.04 mmol, 3.35 g | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(2-carbamoyl-phenyl)-2-chloro-isonicotinamide | C(N)(=O)C1=C(C=CC=C1)NC(C1=CC(=NC=C1)Cl)=O | C13H10ClN3O2
